US20010053779A1
4-Phenyl-1-butanol (1 mL, 6.49 mmol) in THF (3 mL) was combined under dry nitrogen with sodium hydride (0.26 g, 6.5 mmol) in a 60% mineral oil dispersion. The mixture was stirred vigorously for 5 minutes, combined with 3,4-dinitrochlorobenzene (1.3 g, 6.42 mmol) and then stirred 10 hours at room temperature. The mixture was partitioned between diethyl ether and 3N hydrochloric acid. The aqeuous layer was separated and extracted several times with diethyl ether. The combined organic layers were dried (MgSO4), filtered and concentrated by rotary evaporation. The residue was purfied by flash chromatography (9:1 hexanes/diethyl ether) to provide 4-(4-phenylbutoxy)-1,2-dinitrobenzene (1.16 g, 72% yield); 1H-NMR (300 Mhz, CDCL3): 7.84 (d, 1H, J=10.0 Hz), 7.19-7.36 (m, 5H), 7.00-7.06 (m, 2H), 4.10 (t, 2H, J=5.7 Hz), 2.73 (t, 2H, J=6.5 Hz), 1.89 (m, 4H).

reactant | 4-Phenyl-1-butanol | 6.49 mmol, 1 mL | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | sodium hydride | 6.5 mmol, 0.26 g | [H-].[Na+]
reactant | 3,4-dinitrochlorobenzene | 6.42 mmol, 1.3 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(4-phenylbutoxy)-1,2-dinitrobenzene | 1.16 g, 72% yield | C1(=CC=CC=C1)CCCCOC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C16H16N2O5
